US07597875B2
To an stirred ice-cooled solution of tris(2hydroxyethyl)methane (10 g, 0.0676 mol) in dichloromethane (50 ml) was slowly dripped a solution of methanesulphonyl chloride (40 g, 0.349 mol) in dichloromethane (50 ml) under nitrogen at such a rate that the temperature did not rise above 15° C. Pyridine (21.4 g, 0.27 mol, 4 eq) dissolved in dichloromethane (50 ml) was then added drop-wise at such a rate that the temperature did not rise above 15° C., exothermic reaction. The reaction was left to stir at room temperature for 24 h and then treated with 5 N hydrochloric acid solution (80 ml) and the layers separated. The aqueous layer was extracted with further dichloromethane (50 ml) and the organic extracts combined, dried over sodium sulphate, filtered and concentrated in vacuo to give tris[2-(methylsulphonyloxy)ethyl]methane contaminated with excess methanesulphonyl chloride. The theoretical yield was 25.8 g.

reactant | tris(2hydroxyethyl)methane | 0.0676 mol, 10 g | OCCC(CCO)CCO | C7H16O3
reactant | methanesulphonyl chloride | 0.349 mol, 40 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Pyridine | 0.27 mol, 21.4 g, 4 eq | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 5 N, 80 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tris[2-(methylsulphonyloxy)ethyl]methane | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)CCOS(=O)(=O)C | C10H22O9S3
